### PR TITLE
[Merged by Bors] - feat(Topology/MetricSpace/Congruence): define Congruent

### PR DESCRIPTION
**Pull request by newell**
Feat: Add `Congruent` in `Topology.MetricSpace.Congruence`

This is a port of:

https://github.com/leanprover-community/mathlib/pull/18214

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by newell** [comment]
@jsm28 Here is the first PR from the bunch.  There wasn't any comments from you about this file in the previous PR.  Let me know if there are any modifications that you would like me to make to the port.

**Comment by j-loreaux** [comment]
@newell can you explain why you are providing this definition of congruence? It seems very unnatural to me (i.e., the choice to represent sets as indexed families, which are not necessarily even injective!).

Why not just use actual `Set`s, and just require that there is a `Set.BijOn` function mapping one to the other which is distance preserving on that set?

As is, you have the strange phenomenon that if you have two different index sets with the same range, then you can't say they are congruent.

**Comment by kbuzzard** [comment]
Perhaps @JovanGerb has something to say about this definition?

**Comment by jsm28** [comment]
When talking about congruent or similar triangles, it's really important to distinguish triangle ABC from triangle ACB (the two are congruent only if the triangle is isosceles). I'm confident that indexed families are correct for defining congruences, and sets would not be correct.

**Comment by urkud** [comment]
There are (at least) two notions that are equivalent in a Euclidean space:

- the one introduced in this PR, `∀ i j, edist (f i) (f j) = edist (g i) (g j)`
- `∃ e : X ≃ᵢ Y, e ∘ f = g`

I don't know which one is called "congruent" in general case.

File: Mathlib/Topology/MetricSpace/Congruence.lean [hunk 1]
```diff
@@ -0,0 +1,210 @@
...
+* `v₁ ≅ v₂`: for `congruence v₁ v₂`.
+-/
+
+variable {ι ι' : Type*} {P₁ P₂ P₃ : Type*} {v₁ : ι → P₁} {v₂ : ι → P₂} {v₃ : ι → P₃}
+
+noncomputable section
+
+/-- A congruence between indexed sets of vertices v₁ and v₂.
+Use `open scoped Congruence` to access the `v₁ ≅ v₂` notation. -/
+def congruence (v₁ : ι → P₁) (v₂ : ι → P₂) [PseudoEMetricSpace P₁]
```
Comment (urkud) [inline Mathlib/Topology/MetricSpace/Congruence.lean:31]:
```suggestion
def Congruent (v₁ : ι → P₁) (v₂ : ι → P₂) [PseudoEMetricSpace P₁]
```

File: Mathlib/Topology/MetricSpace/Congruence.lean [hunk 2]
```diff
@@ -0,0 +1,210 @@
...
+
+* `v₁ ≅ v₂`: for `congruence v₁ v₂`.
+-/
+
+variable {ι ι' : Type*} {P₁ P₂ P₃ : Type*} {v₁ : ι → P₁} {v₂ : ι → P₂} {v₃ : ι → P₃}
+
+noncomputable section
+
+/-- A congruence between indexed sets of vertices v₁ and v₂.
+Use `open scoped Congruence` to access the `v₁ ≅ v₂` notation. -/
```
Comment (urkud) [inline Mathlib/Topology/MetricSpace/Congruence.lean:30]: Does it mean that we can't deal with congruence and category theory at the same time?

**Comment by jsm28** [comment]
There was a long discussion in the thread https://leanprover.zulipchat.com/#narrow/stream/217875-Is-there-code-for-X.3F/topic/Euclidean.20Geometry about the merits of the two approaches for defining congruence (equal pairwise distances versus existence of an isometric equivalence). Some evidence was found in that thread that the more general notion (equal pairwise distances) is indeed used in the literature between different metric spaces that don't have an isometric equivalence.

In any case, once things move from the general setup in metric spaces to more specific Euclidean applications, the fact that equal distances implies an isometric equivalence in Euclidean spaces with the same finite dimension (or various other such Euclidean cases) will be a natural result to prove early on (that thread has some discussion of how `inner_weightedVSub` / `dist_affineCombination` might be used to prove such results).

**Comment by urkud** [comment]
IMHO, this should be discussed in the docstring.

**Comment by newell** [comment]
> IMHO, this should be discussed in the docstring.

Doc-string updated.

File: Mathlib/Topology/MetricSpace/Congruence.lean (hunk 2 above)
Comment (newell) [reply Mathlib/Topology/MetricSpace/Congruence.lean:39]: I don't know as I haven't done much with category theory in mathlib.  Maybe @jsm28 knows?

Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Congruence.lean:39]: I have no idea what the effects of this notation would be on using congruence together with category theory. (I do expect to have a use for category theory in *combinatorial* geometry - it's how mathlib handles compactness arguments - though probably not for congruence of families of points in that combinatorial geometry.)

File: Mathlib/Topology/MetricSpace/Congruence.lean [hunk 3]
```diff
@@ -0,0 +1,219 @@
...
+Copyright (c) 2024 Jovan Gerbscheid. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jovan Gerbscheid, Newell Jensen
+-/
+import Mathlib.Topology.MetricSpace.Isometry
+
+/-!
+# Congruences
+
+This file defines `Congruent`, i.e., the equivalence between sets of points in a metric
```
Comment (PatrickMassot) [inline Mathlib/Topology/MetricSpace/Congruence.lean:11]: This does not match the implementation that uses indexed families of points.

File: Mathlib/Topology/MetricSpace/Congruence.lean [hunk 4]
```diff
@@ -0,0 +1,219 @@
...
+
+variable {ι ι' : Type*} {P₁ P₂ P₃ : Type*} {v₁ : ι → P₁} {v₂ : ι → P₂} {v₃ : ι → P₃}
+
+noncomputable section
+
+/-- A congruence between indexed sets of vertices v₁ and v₂.
+Use `open scoped Congruence` to access the `v₁ ≅ v₂` notation. -/
+def Congruent (v₁ : ι → P₁) (v₂ : ι → P₂) [PseudoEMetricSpace P₁]
+    [PseudoEMetricSpace P₂] : Prop :=
+  ∀ (i₁ i₂ : ι), (edist (v₁ i₁) (v₁ i₂) = edist (v₂ i₁) (v₂ i₂))
```
Comment (PatrickMassot) [inline Mathlib/Topology/MetricSpace/Congruence.lean:42]: Please remove the unneeded parentheses that make the definition harder to read.

File: Mathlib/Topology/MetricSpace/Congruence.lean [hunk 5]
```diff
@@ -0,0 +1,219 @@
...
+
+@[inherit_doc]
+scoped[Congruence] infixl:25 " ≅ " => Congruent
+
+/-- A congruence holds if and only if all extended distances are the same. -/
+lemma congruent_iff_edist_eq [PseudoEMetricSpace P₁] [PseudoEMetricSpace P₂] :
+    Congruent v₁ v₂ ↔ (∀ (i₁ i₂ : ι), (edist (v₁ i₁) (v₁ i₂) = edist (v₂ i₁) (v₂ i₂))) :=
+  forall₂_congr (fun _ _ => by simp only [edist])
```
Comment (PatrickMassot) [inline Mathlib/Topology/MetricSpace/Congruence.lean:50]:
```suggestion
    Congruent v₁ v₂ ↔ ∀ i₁ i₂ : ι, edist (v₁ i₁) (v₁ i₂) = edist (v₂ i₁) (v₂ i₂) :=
  Iff.rfl
```
Please review every line you wrote to remove obfuscation parentheses. Also search and replace all your `fun … => …` to `fun … ↦ …`.

File: Mathlib/Topology/MetricSpace/Congruence.lean [hunk 6]
```diff
@@ -0,0 +1,219 @@
...
+
+/-- A congruence holds if and only if all non-negative distances are the same. -/
+lemma congruent_iff_nndist_eq [PseudoMetricSpace P₁] [PseudoMetricSpace P₂] :
+    Congruent v₁ v₂ ↔ (∀ (i₁ i₂ : ι), (nndist (v₁ i₁) (v₁ i₂) = nndist (v₂ i₁) (v₂ i₂))) :=
+  forall₂_congr (fun _ _ => by rw [edist_nndist, edist_nndist]; norm_cast )
```
Comment (PatrickMassot) [inline Mathlib/Topology/MetricSpace/Congruence.lean:55]: Are you aware of the `peel` tactic? I’m not saying you must use it instead of `forall₂_congr` but in more complicated cases it is a lot easier than wrestling those lemmas.

File: Mathlib/Topology/MetricSpace/Congruence.lean [hunk 7]
```diff
@@ -0,0 +1,219 @@
...
+      edist (v₂ i₁) (v₂ i₂)))) : v₁ ≅ v₂ :=
+  fun i₁ i₂ => if g : i₁ = i₂ then by rw [g]; simp else h g
+
+/-- A congruence follows from pairwise preserved non-negative distance. -/
+lemma of_pairwise_nndist_eq [PseudoMetricSpace P₁] [PseudoMetricSpace P₂] [DecidableEq ι]
+    (h : Pairwise (fun i₁ i₂ => (nndist (v₁ i₁) (v₁ i₂) = nndist (v₂ i₁) (v₂ i₂)))) : v₁ ≅ v₂ :=
+  of_pairwise_edist_eq (fun i₁ i₂ hn => by
+    simp only [edist_nndist]
+    norm_cast
+    exact h hn)
```
Comment (PatrickMassot) [inline Mathlib/Topology/MetricSpace/Congruence.lean:96]: Here you can probably use `exact_mod_cast h hn`. Again this is not a request for change, only information for you.

File: Mathlib/Topology/MetricSpace/Congruence.lean [hunk 8]
```diff
@@ -0,0 +1,219 @@
...
+
+/-- A congruence follows from pairwise preserved distance. -/
+lemma of_pairwise_dist_eq [PseudoMetricSpace P₁] [PseudoMetricSpace P₂] [DecidableEq ι]
+    (h : Pairwise (fun i₁ i₂ => dist (v₁ i₁) (v₁ i₂) = dist (v₂ i₁) (v₂ i₂))) : v₁ ≅ v₂ :=
+  of_pairwise_nndist_eq (fun i₁ i₂ hn => by
+    have := h hn
+    simp only [dist_nndist] at this
+    norm_cast at this)
```
Comment (PatrickMassot) [inline Mathlib/Topology/MetricSpace/Congruence.lean:104]:
```suggestion
    simp only [dist_nndist] at h
    exact_mod_cast h hn)
```

File: Mathlib/Topology/MetricSpace/Congruence.lean [hunk 9]
```diff
@@ -0,0 +1,219 @@
...
+
+/-- Change the index set ι to an index ι' that maps to ι. -/
+lemma index_map (h : v₁ ≅ v₂) (f : ι' → ι) : (v₁ ∘ f) ≅ (v₂ ∘ f) :=
+  fun i₁ i₂ => edist_eq h (f i₁) (f i₂)
+
+/-- Change between equivalent index sets ι and ι'. -/
+lemma index_equiv (f : ι' ≃ ι) (v₁ : ι → P₁) (v₂ : ι → P₂) :
+    v₁ ∘ f ≅ v₂ ∘ f ↔ v₁ ≅ v₂ := by
+  refine' ⟨fun h i₁ i₂ => _, fun h => index_map h f⟩
+  simpa [Equiv.right_inv f i₁, Equiv.right_inv f i₂] using edist_eq h (f.symm i₁) (f.symm i₂)
```
Comment (PatrickMassot) [inline Mathlib/Topology/MetricSpace/Congruence.lean:130]: You can use dot notation here.

File: Mathlib/Topology/MetricSpace/Congruence.lean [hunk 10]
```diff
@@ -0,0 +1,219 @@
...
+
+
+section EMetricSpace
+
+variable [EMetricSpace P₁] [EMetricSpace P₂] [EMetricSpace P₃]
+
+/-- `congruence_map` maps the congruent points in one space to the corresponding points
+in the other space. -/
+def congruence_map (v₁ : ι → P₁) (v₂ : ι → P₂) : Set.range v₁ → Set.range v₂ :=
+  fun a => Set.rangeFactorization v₂ <| Set.rangeSplitting v₁ a
```
Comment (PatrickMassot) [inline Mathlib/Topology/MetricSpace/Congruence.lean:142]: This definition has nothing to do with congruences, right?

File: Mathlib/Topology/MetricSpace/Congruence.lean [hunk 11]
```diff
@@ -0,0 +1,219 @@
...
+    (congruence_map v₁ v₂ (Set.rangeFactorization v₁ i)) = v₂ i := by
+  unfold congruence_map
+  rw [Set.rangeFactorization_coe v₂, ← edist_eq_zero, ← h, edist_eq_zero,
+    Set.apply_rangeSplitting v₁, Set.rangeFactorization_coe v₁]
+
+lemma map_comp_apply (h : v₂ ≅ v₃) (a : Set.range v₁) :
+    congruence_map v₂ v₃ (congruence_map v₁ v₂ a) = congruence_map v₁ v₃ a := by
+  rw [Subtype.ext_iff]
+  unfold congruence_map
+  rw [Set.rangeFactorization_coe v₃]
```
Comment (PatrickMassot) [inline Mathlib/Topology/MetricSpace/Congruence.lean:159]:
```suggestion
  ext
```

File: Mathlib/Topology/MetricSpace/Congruence.lean [hunk 12]
```diff
@@ -0,0 +1,219 @@
...
+  exact map_sound h (Set.rangeSplitting v₁ a)
+
+lemma map_comp (v₁ : ι → P₁) (h : v₂ ≅ v₃) :
+    (congruence_map v₂ v₃) ∘ congruence_map v₁ v₂ = congruence_map v₁ v₃ :=
+  funext <| fun a => map_comp_apply h a
```
Comment (PatrickMassot) [inline Mathlib/Topology/MetricSpace/Congruence.lean:164]:
```suggestion
  funext <| map_comp_apply h
```

File: Mathlib/Topology/MetricSpace/Congruence.lean [hunk 13]
```diff
@@ -0,0 +1,219 @@
...
+  forall₂_congr (fun _ _ => by rw [edist_nndist, edist_nndist]; norm_cast )
+
+/-- A congruence holds if and only if all distances are the same. -/
+lemma congruent_iff_dist_eq [PseudoMetricSpace P₁] [PseudoMetricSpace P₂] :
+    Congruent v₁ v₂ ↔ (∀ (i₁ i₂ : ι), (dist (v₁ i₁) (v₁ i₂) = dist (v₂ i₁) (v₂ i₂))) :=
+  congruent_iff_nndist_eq.trans
+    (forall₂_congr (fun _ _ => by rw [dist_nndist, dist_nndist]; norm_cast))
+
+
+namespace Congruence
```
Comment (PatrickMassot) [inline Mathlib/Topology/MetricSpace/Congruence.lean:64]: Why not using the Congruent namespace? This would allow a lot more dot notation, right?

File: Mathlib/Topology/MetricSpace/Congruence.lean [hunk 14]
```diff
@@ -0,0 +1,219 @@
...
+protected def isometry (h : v₁ ≅ v₂) : Set.range v₁ ≃ᵢ Set.range v₂ :=
+{ toFun := congruence_map v₁ v₂
+  invFun := congruence_map v₂ v₁
+  left_inv := map_inverse_self h
+  right_inv := map_inverse_self <| Congruence.symm h
+  isometry_toFun := by
+    intros fx fy
+    rw [Subtype.edist_eq fx fy]
+    rw [← Set.apply_rangeSplitting v₁ fx, ← Set.apply_rangeSplitting v₁ fy]
+    rw [edist_eq h]
```
Comment (PatrickMassot) [inline Mathlib/Topology/MetricSpace/Congruence.lean:183]: Please merge all those `rw`.

**Comment by jsm28** [comment]
I've cleaned up the material in this PR, including removing the `congruence_map` material that seemed to be responsible for many of the issues and not needed for the definitions here to be useful, and I think it's now ready for review again.

File: Mathlib/Topology/MetricSpace/Congruence.lean (hunk 3 above)
Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Congruence.lean]: The module doc string now refers to indexed families.

File: Mathlib/Topology/MetricSpace/Congruence.lean (hunk 4 above)
Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Congruence.lean]: I have I hope now removed all the excessive parentheses.

File: Mathlib/Topology/MetricSpace/Congruence.lean (hunk 5 above)
Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Congruence.lean]: I've also changed everything here to use `↦`.

File: Mathlib/Topology/MetricSpace/Congruence.lean (hunk 7 above)
Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Congruence.lean]: I'm now using `exact_mod_cast` where applicable (this particular case has become an `iff` with `exact_mod_cast Iff.rfl` used in the proof).

File: Mathlib/Topology/MetricSpace/Congruence.lean (hunk 8 above)
Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Congruence.lean]: Also now an `iff` using `exact_mod_cast Iff.rfl`.

File: Mathlib/Topology/MetricSpace/Congruence.lean (hunk 9 above)
Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Congruence.lean]: Now using dot notation, along with being stated for a general `EquivLike` and marked `@[simp]`.

File: Mathlib/Topology/MetricSpace/Congruence.lean (hunk 10 above)
Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Congruence.lean]: I've removed this definition and associated API. This definition indeed would belong somewhere more general, and the consequent fact about isometries of subtypes for the two ranges is probably of limited use (certainly what I think is more useful in the Euclidean case is the ability to extend to an affine isometry of the entire spaces spanned by the indexed families of points, and thus to apply lemmas that map other geometrical definitions, including constructing points not in the original families, across isometries).

File: Mathlib/Topology/MetricSpace/Congruence.lean (hunk 11 above)
Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Congruence.lean]: This is part of the material I've removed.

File: Mathlib/Topology/MetricSpace/Congruence.lean (hunk 12 above)
Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Congruence.lean]: This is part of the material I've removed.

File: Mathlib/Topology/MetricSpace/Congruence.lean (hunk 13 above)
Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Congruence.lean]: I've renamed the namespace.

File: Mathlib/Topology/MetricSpace/Congruence.lean (hunk 14 above)
Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Congruence.lean]: This is part of the material I've removed.

**Comment by j-loreaux** [comment]
@jsm28 can you please mark conversations as resolved if you think your action is sufficient to resolve them?

@PatrickMassot ping because this is assigned to you and it's now on the queue.

**Comment by jsm28** [comment]
I was leaving an opportunity for the original reviewer to consider if they agree that those comments were resolved, but I've now marked them as resolved myself.

File: Mathlib/Topology/MetricSpace/Congruence.lean [hunk 15]
```diff
@@ -0,0 +1,153 @@
...
+/-- A congruence holds if and only if all non-negative distances between points with different
+indices are the same. -/
+lemma congruent_iff_pairwise_dist_eq :
+    Congruent v₁ v₂ ↔ Pairwise fun i₁ i₂ ↦ dist (v₁ i₁) (v₁ i₂) = dist (v₂ i₁) (v₂ i₂) := by
+  simp_rw [congruent_iff_pairwise_nndist_eq, dist_nndist]
+  exact_mod_cast Iff.rfl
+
+namespace Congruent
+
+/-- A congruence preserves non-negative distance. -/
```
Comment (edegeltje) [inline Mathlib/Topology/MetricSpace/Congruence.lean:127]: same here?

File: Mathlib/Topology/MetricSpace/Congruence.lean [hunk 16]
```diff
@@ -0,0 +1,153 @@
...
+alias ⟨edist_eq, _⟩ := congruent_iff_edist_eq
+
+/-- A congruence follows from preserved extended distance. -/
+alias ⟨_, of_edist_eq⟩ := congruent_iff_edist_eq
+
+/-- A congruence pairwise preserves extended distance. -/
+alias ⟨pairwise_edist_eq, _⟩ := congruent_iff_pairwise_edist_eq
+
+/-- A congruence follows from pairwise preserved extended distance. -/
+alias ⟨_, of_pairwise_edist_eq⟩ := congruent_iff_pairwise_edist_eq
```
[the remark this answers is not in the document]
Comment (jsm28) [reply Mathlib/Topology/MetricSpace/Congruence.lean]: I've added such information to the doc strings.

**Comment by PatrickMassot** [comment]
bors merge
